US06340746B1
c. 3-(3-Aminopropyl)-2-thiazolidinone
To a solution of 2-thiazolidinone (0.994 g, 9.64 mmol) in acetonitrile (10 ml) were added N-phthalimido-3-bromopropylamine (2.88 g, 10.7 mmol), potassium carbonate (1.64 g, 11.9 mmol), and 18-crown-6 (catalytic amount). The mixture was refluxed about 17 hours, solvent was removed in vacuo, and the resulting solid was redissolved in 1 M potassium chloride and dichioromethane (˜25 ml each). The aqueous phase was separated and extracted with 2×25 ml dichloromethane. The combined organic fraction was dried over sodium sulfate, filtered and dried in vacuo. The crude product was recrystallized from acetone/methanol to give 1.54 g (55% yield). To a warmed solution of the phthalimido protected amine (1.53 g, 5.27 mmol) in 6:1 isopropanol:water was added sodium borohydride (1.01 g, 26.7 mmol), and the mixture was stirred at 60° C. for 22 hours. Glacial acetic acid (5.4 ml) was added, and the solution was stirred at 80° C. for 2 hours, then the solution was cooled and dried in vacuo. The product was redissolved in 6 N hydrochloric acid, washed with ether (2×30 ml), then dried in vacuo. The product was purified via recrystallization from hot water.

reactant | 2-thiazolidinone | 9.64 mmol, 0.994 g | S1C(NCC1)=O | C3H5NOS
reactant | N-phthalimido-3-bromopropylamine | 10.7 mmol, 2.88 g | C1(C=2C(C(N1NCCCBr)=O)=CC=CC2)=O | C11H11BrN2O2
reactant | potassium carbonate | 11.9 mmol, 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium borohydride | 26.7 mmol, 1.01 g | [BH4-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetic acid | 5.4 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(3-Aminopropyl)-2-thiazolidinone | 55% yield | NCCCN1C(SCC1)=O | C6H12N2OS
